US06762180B1
(17) N-bromoacetyl-N-isopropyl-4-nitro-aniline
Prepared from 4-isopropylamino-nitrobenzene and bromoacetyl chloride

reactant | 4-isopropylamino-nitrobenzene | C(C)(C)NC1=CC=C(C=C1)[N+](=O)[O-] | C9H12N2O2
reactant | bromoacetyl chloride | BrCC(=O)Cl | C2H2BrClO
product | N-bromoacetyl-N-isopropyl-4-nitro-aniline | BrCC(=O)N(C1=CC=C(C=C1)[N+](=O)[O-])C(C)C | C11H13BrN2O3
